US07465731B2
A mixture of tert-butyl (3R)-3-({3-chloro-5-[(1Z)-3-ethoxy-2-fluoro-3-oxo-1-propen-1-yl]-2-pyridinyl}amino)-1-pyrrolidinecarboxylate (2.34 g) and 4N hydrogen chloride in dioxane solution (11 ml) in EtOH (10 ml) was stirred at ambient temperature for 4 hours. IPE (100 ml) was added to a reaction mixture and the precipitate was collected by filtration to give ethyl (2Z)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}-2-fluoroacrylate dihydrochloride (1.95 g).

reactant | tert-butyl (3R)-3-({3-chloro-5-[(1Z)-3-ethoxy-2-fluoro-3-oxo-1-propen-1-yl]-2-pyridinyl}amino)-1-pyrrolidinecarboxylate | 2.34 g | ClC=1C(=NC=C(C1)\C=C(\C(=O)OCC)/F)N[C@H]1CN(CC1)C(=O)OC(C)(C)C | C19H25ClFN3O4
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dioxane | 11 ml | O1CCOCC1 | C4H8O2
solvent | EtOH | 10 ml | CCO | C2H6O
product | ethyl (2Z)-3-{5-chloro-6-[(3R)-3-pyrrolidinylamino]-3-pyridinyl}-2-fluoroacrylate dihydrochloride | 1.95 g | Cl.Cl.ClC=1C=C(C=NC1N[C@H]1CNCC1)\C=C(\C(=O)OCC)/F | InChI=1S/C14H17ClFN3O2.2ClH/c1-2-21-14(20)12(16)6-9-5-11(15)13(18-7-9)19-10-3-4-17-8-10;;/h5-7,10,17H,2-4,8H2,1H3,(H,18,19);2*1H/b12-6-;;/t10-;;/m1../s1
